US07285572B2
2′-[1-(((2R)-oxiranyl)methoxy)ethyl]biphenyl-4-carbonitrile
(R)-2-[1-(2-Bromophenyl)ethoxymethyl]oxirane (8.24 g) was dissolved in toluene (38 ml) and ethanol (150 ml), 2M-aqueous sodium carbonate (80 ml), 4-cyanophenylboronic acid (5.65 g) and tetrakis(triphenylphosphine)palladium(0) (1.85 g) were successively added, and the mixture was heated under reflux overnight. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. Water was added to the obtained residue, and the mixture was extracted 3 times with diethyl ether. The organic layer was washed successively with water and brine, dried over sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane:ethyl acetate=4:1) to give the title compound (2.40 g).

reactant | (R)-2-[1-(2-Bromophenyl)ethoxymethyl]oxirane | 8.24 g | BrC1=C(C=CC=C1)C(C)OC[C@@H]1OC1 | C11H13BrO2
reactant | sodium carbonate | 80 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-cyanophenylboronic acid | 5.65 g | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
solvent | toluene | 38 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.85 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′-[1-(((2R)-oxiranyl)methoxy)ethyl]biphenyl-4-carbonitrile | 2.40 g | O1[C@H](C1)COC(C)C1=C(C=CC=C1)C1=CC=C(C=C1)C#N | C18H17NO2
